US04204867
15.5 g of ω-chloroacetophenone are dissolved while stirring in 200 ml of ethanol saturated with ammonia. After standing overnight, the orange-coloured solution is poured onto 500 ml of water. The precipitating oil is separated off and taken up with 80 ml of 20% hydrochloric acid Concentration give 5 g (20% yield) of ω-aminoacetophenone hydrochloride.

reactant | ω-chloroacetophenone | 15.5 g | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | ammonia | N | H3N
reactant | water | 500 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ω-aminoacetophenone hydrochloride | 5 g, 20% yield | Cl.NCC(=O)C1=CC=CC=C1 | InChI=1S/C8H9NO.ClH/c9-6-8(10)7-4-2-1-3-5-7;/h1-5H,6,9H2;1H
